US07981903B2
A −40° C. solution of 2-fluoro-6-[(2-{[5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide (70 mg, 0.16 mmol) in THF (10 mL) was treated with a solution of bromoacetyl chloride (31 mg, 0.19 mmol) in THF (1 mL), followed by imidazole (10 mL) and DIPEA (1 mL). After 3 days the resulting mixture was concentrated onto Celite and purified by silica gel chromatography using 1-10% MeOH (containing 0.2% NH3)/CH2Cl2. The crude product was dissolved in THF (150 mL), diluted with EtOAc (50 mL), washed with a saturated NaHCO3 solution (100 mL), a saturated NaCl solution (100 mL) and a mixture of water (50 mL) and a saturated Na2CO3 solution (50 mL). The organic layer was dried (Na2SO4) and concentrated, and the residue was triturated with CH2Cl2 to obtain 2-fluoro-6-[(2-{[1-(1H-imidazol-1-ylacetyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide as a white solid (72 mg, 83%). 1H NMR (400 MHz, DMSO-d6) δ ppm 3.18 (t, J=8.15 Hz, 2H), 3.77 (s, 3H), 4.18 (t, J=8.06 Hz, 2H), 6.19 (s, 1H), 6.78-6.94 (m, 3H), 6.97 (s, 1H), 7.07 (s, 1H), 7.29 (q, J=7.69 Hz, 1H), 7.54 (s, 1H), 7.55 (s, 1H), 7.99 (s, 1H), 8.07 (s, 1H), 8.46 (d, J=8.42 Hz, 1H), 8.58 (s, 1H), 10.52 (s, 1H), 11.27 (s, 1H), a CH2 signal with 2 protons is missing, may overlap with water peak in sample; ESIMS (M+H)+=542.11.

reactant | 2-fluoro-6-[(2-{[5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide | 0.16 mmol, 70 mg | FC1=C(C(=O)N)C(=CC=C1)NC1=C2C(NC(=N1)NC1=C(C=C3CCNC3=C1)OC)=NC=C2 | C22H20FN7O2
reactant | bromoacetyl chloride | 0.19 mmol, 31 mg | BrCC(=O)Cl | C2H2BrClO
reactant | imidazole | 10 mL | N1C=NC=C1 | C3H4N2
reactant | DIPEA | 1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-fluoro-6-[(2-{[1-(1H-imidazol-1-ylacetyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide | 72 mg, 83% | FC1=C(C(=O)N)C(=CC=C1)NC1=C2C(NC(=N1)NC1=C(C=C3CCN(C3=C1)C(CN1C=NC=C1)=O)OC)=NC=C2 | C27H24FN9O3
